US04582919
237 mg of tosyl chloride and 350 mg of (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-butanediol were dissolved in 1 ml of methylene chloride. 0.180 ml of pyridine was then added dropwise at 0° C. and the mixture was left to stand at 0° C. for 1 hour and then at room temperature for 16 hours. 1 g of ice and 0.3 ml of concentrated hydrochloric acid were thereupon added. The mixture was then extracted with methylene chloride and the extracts were dried and concentrated. There were obtained 511 mg (95%) of (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1-toluylsulphonyloxy-2-butanol. [α]D20 +1.2° (c=2.6% in chloroform).

reactant | tosyl chloride | 237 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-butanediol | 350 mg | COC1=C(C(=C(C(=C1C)C)OC)C)CC[C@@](CO)(O)C | C16H26O4
reactant | pyridine | 0.180 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1-toluylsulphonyloxy-2-butanol | 511 mg, 95% | COC1=C(C(=C(C(=C1C)C)OC)C)CC[C@@](COS(=O)(=O)C1=C(C=CC=C1)C)(O)C | C23H32O6S
